US09024021B2
A mixture of 6-bromo-2-pyridinecarboxylic acid (0.3 g, 1.5 mmol), thionyl chloride (0.27 ml, 3.7 mmol) and DMF (catalytic amount) in methanol (10 ml) was heated to reflux for 2 hrs under nitrogen atmosphere. The reaction mixture was concentrated to dryness to provide methyl 6-bromo-2-pyridinecarboxylate.

reactant | 6-bromo-2-pyridinecarboxylic acid | 1.5 mmol, 0.3 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | thionyl chloride | 3.7 mmol, 0.27 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
product | methyl 6-bromo-2-pyridinecarboxylate | BrC1=CC=CC(=N1)C(=O)OC | C7H6BrNO2
